US05886015
To a 100 ml round bottom flask equipped with a magnetic stirrer and reflux condenser was charged 1.0 g (0.0045 moles) of 3'-hydroxychalcone, and 25 mls of absolute ethanol. To this solution was then added 0.21 g (0.0045 moles) of methyl hydrazine in one portion. The reaction was then heated to reflux for two hours, then cooled. The solvent was removed under reduced pressure to afford 1.1 g of 3-(3-hydroxylphenyl)-1-methyl-5-phenyl-2-pyrazoline as a thick brown oil in 97% yield

reactant | 3'-hydroxychalcone | 0.0045 moles, 1.0 g | OC=1C=C(C(C=CC2=CC=CC=C2)=O)C=CC1 | C15H12O2
reactant | methyl hydrazine | 0.0045 moles, 0.21 g | CNN | CH6N2
solvent | ethanol | 25 mls | C(C)O | C2H6O
product | 3-(3-hydroxylphenyl)-1-methyl-5-phenyl-2-pyrazoline | 1.1 g, 97% yield | OC=1C=C(C=CC1)C1=NN(C(C1)C1=CC=CC=C1)C | C16H16N2O
